US07173129B2
Ex-50A: A solution of 4-acetyl-N-(3-imidazol-1-ylpropyl)benzenesulfonamide (Ex-23A, 312 mg, 1.02 mmol) and 5-(2-amino-phenylethynyl)-2,4-dimethoxybenzaldehyde (Ex-35C, 287 mg, 1.02 mmol) in DMF (4.4 mL) and MeOH (1.9 mL) was treated with lithium methoxide (155 mg, 4.08 mmol). The reaction mixture was stirred at room temperature for 16 h under nitrogen. The reaction mixture was quenched with water (25 mL) and extracted with (3:1) ethyl acetate/THF (3×25 mL). The organic phase was brined, dried over sodium sulfate, and concentrated to a yellow oil. The crude material was purified by column chromatography (0–7.5% MeOH in dichloromethane) to give 4-{3E-[5-(2-amino-phenylethynyl)-2,4-dimethoxy-phenyl]acryloyl}-N-(3-imidazol-1-ylpropyl)benzenesulfonamide (309 mg, 53%) as a yellow oil. 1H-NMR (3.00 MHz, DMSO-d6) 8.28 (d, 2H, J=7.80), 8.20 (s, 1H), 8.01 (d, 1H, J=15.0 Hz), 7.86 (m, 5 H), 7.51 (s, 1H), 7.16 (d, 1H, J=7.5 Hz), 7.23 (m, 2H), 6.79 (d, 2H, J=10.8 Hz), 6.72 (d, 1H, J=8.1 Hz), 6.52 (t, 1H, J=7.2 Hz), 5.45 (m, 1H), 3.97 (s, 3H), 3.96 (s, 3H), 3.92 (m, 4H), 1.77 (quintet, 2H, J=6.6 Hz).

reactant | 4-acetyl-N-(3-imidazol-1-ylpropyl)benzenesulfonamide | 1.02 mmol, 312 mg | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NCCCN1C=NC=C1 | C14H17N3O3S
reactant | 5-(2-amino-phenylethynyl)-2,4-dimethoxybenzaldehyde | 1.02 mmol, 287 mg | NC1=C(C=CC=C1)C#CC=1C(=CC(=C(C=O)C1)OC)OC | C17H15NO3
reactant | lithium methoxide | 4.08 mmol, 155 mg | C[O-].[Li+]
solvent | DMF | 4.4 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 1.9 mL | CO | CH4O
product | 4-{3E-[5-(2-amino-phenylethynyl)-2,4-dimethoxy-phenyl]acryloyl}-N-(3-imidazol-1-ylpropyl)benzenesulfonamide | 309 mg, 53% | NC1=C(C=CC=C1)C#CC=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)NCCCN1C=NC=C1)OC)OC | C31H30N4O5S
